US08809342B2
Methyl 3-(6-(1-(2,6-dimethyl-4′-(trifluoromethyl) biphenyl-4-yl amino)-3-methylbutyl)nicotinamido)propanoate (400 mg, 0.74 mmol) was dissolved in H2O (3 mL) and tetrahydrofuran (3 mL). Then 1N LiOH (93.0 mg, 2.2 mmol) was added. The mixture was stirred at ambient temperature for 5 hours. The mixture was neutralized with 1N HCl and extracted with ethyl acetate. The organic layer was dried over sodium sulfate, filtered and concentrated. Purification by HPLC (column: Boston Analytics Symmetrix ODS-H 150×30 mm, 5 μm; modifier: formic acid 0.225%; gradient: 10 to 80% MeCN in water) gave (+/−)-3-(6-(1-(2,6-dimethyl-4′-(trifluoromethyl)biphenyl-4-ylamino)-3-methylbutyl)nicotinamido)propanoic acid (50.7 mg, 13%) as a yellow solid. 1H NMR (400 MHz, CD3CN, δ): 8.85 (s, 1H), 8.02 (m, 1H), 7.64 (d, 2H), 7.46 (d, 1H), 7.22 (d, 3H), 6.32 (s, 2H), 4.59 (m, 1H), 3.54 (m, 2H), 2.55 (m, 2H), 1.93 (m, 6H), 1.78 (s, 2H), 1.72 (m, 2H), 1.60 (m, 1H), 0.96 (d, 3H), 0.91 (d, 3H). MS (M+1): 528.2.

reactant | Methyl 3-(6-(1-(2,6-dimethyl-4′-(trifluoromethyl) biphenyl-4-yl amino)-3-methylbutyl)nicotinamido)propanoate | 0.74 mmol, 400 mg | CC1=C(C(=CC(=C1)NC(CC(C)C)C1=NC=C(C(=O)NCCC(=O)OC)C=C1)C)C1=CC=C(C=C1)C(F)(F)F | C30H34F3N3O3
reactant | LiOH | 2.2 mmol, 1N, 93.0 mg | [Li+].[OH-]
reactant | HCl | 1N | Cl | ClH
solvent | H2O | 3 mL | O | H2O
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | (+/−)-3-(6-(1-(2,6-dimethyl-4′-(trifluoromethyl)biphenyl-4-ylamino)-3-methylbutyl)nicotinamido)propanoic acid | 50.7 mg, 13% | CC1=C(C(=CC(=C1)NC(CC(C)C)C1=NC=C(C(=O)NCCC(=O)O)C=C1)C)C1=CC=C(C=C1)C(F)(F)F | C29H32F3N3O3
